US07674797B2
To a suspension of 2-(1H-1,2,4-triazol-1-ylmethyl)piperazine dihydrochloride (104 mg, 0.39 mmol) and Et3N (157.7 mg, 1.56 mmol) in CH2Cl2 (3 ml) was added [{[(tert-butoxy-carbonyl)oxy]amino}(cyano)methyl]benzene (106.5 mg, 0.43 mmol). The mixture was stirred for 2 hours at room temperature. The solvent was evaporated in vacuo, and the residue was purified by column chromatography on silica gel (MeOH/CHCl3= 1/50- 1/10) to give tert-butyl 3-(1H-1,2,4-triazol-1-ylmethyl)-1-piperazinecarboxylate (50.9 mg, 48.9%): HPLC-MS (ESI): Calcd for C, H20N6O2 [M+H]+ 268, found: 268.

reactant | 2-(1H-1,2,4-triazol-1-ylmethyl)piperazine dihydrochloride | 0.39 mmol, 104 mg | Cl.Cl.N1(N=CN=C1)CC1NCCNC1
reactant | Et3N | 1.56 mmol, 157.7 mg | CCN(CC)CC | C6H15N
reactant | [{[(tert-butoxy-carbonyl)oxy]amino}(cyano)methyl]benzene | 0.43 mmol, 106.5 mg | C(C)(C)(C)OC(=O)ONC(C#N)C1=CC=CC=C1 | C13H16N2O3
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(1H-1,2,4-triazol-1-ylmethyl)-1-piperazinecarboxylate | 50.9 mg, 48.9% | N1(N=CN=C1)CC1CN(CCN1)C(=O)OC(C)(C)C | C12H21N5O2
